2137-08-15 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Removed from BiPap, placed on NRB facemask
   - Concern for PNA, rec
d Levaquin in ED.  Unable to discern actuality
   of PNA.  Decided to hold on Abx for now.  Low threshold to start abx.
   Will need to cover with more than LVQ as he was transferred from [**Hospital 12**]
   Rehab and would req pseudomonal coverage.
   - Lasix drip, added Diuril 250 mg
   - Pending urine lytes, depending on results
 renal u/s
   - Blood cx pending
   - ABG 7.39/65/160
   - Required low dose Ativan x 1 for agitation
   - Emailed pt
s cardiologist, Dr. [**Last Name (STitle) 4533**], to update him on admission.
   He replied that he would help in a transfer to the CCU.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2137-8-14**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-8-15**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36
C (96.8
   HR: 69 (63 - 108) bpm
   BP: 113/61(72) {78/39(43) - 131/68(78)} mmHg
   RR: 18 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    747 mL
                                                                     51 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                     47 mL
                                                                     51 mL
   Blood products:
   Total out:
                                                                  1,010 mL
                                                                    760 mL
   Urine:
                                                                    910 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -263 mL
                                                                   -709 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 100%
   ABG: 7.39/65/160//11
   PaO2 / FiO2: 320
   Physical Examination
   Gen: sleeping, occasional tremor-like movements
   Chest: diffuse crackles bilat
   Ext: left leg larger than right, no edema in right, with slight pitting
   to ankle in left
   Labs / Radiology
   401
   9.3
   129
   2.8
   36
   4.0
   98
   93
   140
   31.1
   9.9
        [image002.jpg]
                             [**2137-8-14**]  06:52 PM
                             [**2137-8-15**]  01:24 AM
   TropT
   0.09
   TCO2
   41
   Other labs: CK / CKMB / Troponin-T:46//0.09
   BNP: [**Numeric Identifier 4529**]
   Assessment and Plan
   Mr. [**Known lastname 3299**] is an 83 year-old man with a history of coronary artery
   disease and respiratory failure due to acute-on-chronic systolic CHF.
   1. Acute on chronic systolic CHF plus severe mitral regurgitation:
   - furosemide 80 mg IV bolus followed by 8 mg/hr drip; added Diural
   250mg for goal of net negative 100 cc/hr
   - cont amiodarone for beta blockade
   - Continue ACE, although have low threshold to d/c in case of worsening
   renal function
   - cycle enzymes to rule out acute infarction as cause of decompensation
   - low Na/fluid restricted diet
   - consider transfer to CCU service, Dr. [**Last Name (STitle) 4533**] is in agreement
   2. Hypoxemia: likely secondary to pulmonary edema and decompensated
   heart failure; lack of fever, sputum production, leukocytosis, bandemia
   all argue against pneumonia
   - hold further antibiotics for now
   - [**Month (only) 60**] need another ABG today as pt is hypercarbic but appears to be
   compensated
   3. Coronary artery disease:
   - cont home aspirin, clopidogrel, statin
   - cycle enzymes
   4. Atrial fibrillation:
   - cont amiodarone
   - hold warfarin given supratherapeutic INR and possibility of invasive
   procedure; if subtherapeutic, can use IV heparin
   5. Acute on chronic renal failure (baseline CKD IV): likely due to poor
   forward flow from decompensated CHF as above
   - urine lytes, urine eo
s- pending
   - diuresis as above
   6. DM2: on oral agents at home
   - sliding scale insulin
   7. Anxiety:
   - cont home citalopram; prn low-dose lorazepam
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2137-8-14**] 04:27 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: H2 Blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-08-15 09:41:00 Physician Attending Progress Note
Chief Complaint: SOB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   83 yo with severe systolic HF (15%), MR, chronic renal failure,
   presents with increasing SOB over past few weeks.  Being followed by
   Dr. [**Last Name (STitle) 4533**] as outpt, recently creatinine has be increasin with attempts
   at more diuresis.  in ED BP 100/57, sat 93% on 3L.  Got saline and
   levoflox in ED and got more SOB and got bipap.  By report weight has
   been increasing in rehab.  Received IV lasix, then lasix drip, and
   diuril in MICU.
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2137-8-14**] 04:21 PM
 NON-INVASIVE VENTILATION - STOP [**2137-8-14**] 06:09 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2137-8-14**] 05:00 PM
   Other medications:
   amiodarone
   lipitor
   plavix
   asa
   celexa
   SSI
   colace
   FeSO4
   Pepcid
   lisinopril
   Changes to medical and family history:
   LAD STEMI in [**3-2**]
   cholecystitis - has cholecystomy tube.
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-8-15**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36
C (96.8
   HR: 69 (63 - 108) bpm
   BP: 113/61(72) {78/39(43) - 131/68(78)} mmHg
   RR: 18 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    747 mL
                                                                     53 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                     47 mL
                                                                     53 mL
   Blood products:
   Total out:
                                                                  1,010 mL
                                                                    760 mL
   Urine:
                                                                    910 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -263 mL
                                                                   -707 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 100%
   ABG: 7.34/66/60/37/6
   PaO2 / FiO2: 120
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Wheezes : b/l)
   Abdominal: Non-tender, Distended
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   373 K/uL
   89 mg/dL
   2.7 mg/dL
   37 mEq/L
   4.0 mEq/L
   94 mg/dL
   94 mEq/L
   141 mEq/L
   29.2 %
   8.7 K/uL
        [image002.jpg]
                             [**2137-8-14**]  06:52 PM
                             [**2137-8-15**]  01:24 AM
                             [**2137-8-15**]  04:18 AM
                             [**2137-8-15**]  08:49 AM
   WBC
   8.7
   Hct
   29.2
   Plt
   373
   Cr
   2.7
   TropT
   0.09
   TCO2
   41
   37
   Glucose
   89
   Other labs: PT / PTT / INR://3.4, CK / CKMB / Troponin-T:40//0.09,
   Lactic Acid:3.3 mmol/L, Ca++:9.3 mg/dL, Mg++:2.4 mg/dL, PO4:5.7 mg/dL
   Imaging: CXR: Large b/l effusions
   Assessment and Plan
   Respiratory distress:  Doubt PNA. Picture c/w CHF and cardiac asthma.
   Continue with lasix drip.  consider albuterol/atrovent for wheezing.
   Echo today.
   Afib:  HR currently controlled.  INR high - hold warfarin for today.
   Hypercarbia:  New for him, may be due to contraction alkalosis, but
   will require close monitoring as he may develop respiratory failure.
   Cholecystomy tube.
   Aline to monitor BP and frequent gases.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2137-8-14**] 04:27 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill